US07244725B2
A. 5-bromo-2-hydroxybenzamide
To a stirred solution of 5-Bromosalicyclic acid (30 g, 135.5 mmol) in n-butylalcohol (60 mL) was added H2SO4 (95.6%, 289 μL, 5.42 mmol) in a 100 ml round bottom flask connected by a Dean-Stark trap/reflux condenser that was filled with 12 ml of n-butylalcohol. After heated to reflux for 2 days, the reaction was cooled down to R.T. and concentrated to give a pale yellow oil. The mixture was added 50 mL MeOH, followed by NH3 in MeOH (7 N, 116 mL). The reaction was stirred at R.T. for another 2 days, monitored by HPLC. After the reaction complete, it was concentrated to give a white solid. The crude solid was washed with small amount of EtOAc and hexane to afford 24 g of the product as a white crystalline solid (82% yield). 1H NMR (CDCl3) δ 12.15 (s, 1H), 7.54 (m, 2H), 6.97 (d, J=12 Hz, 1H), 6.00 (broad, 2H).

reactant | 5-Bromosalicyclic acid | 135.5 mmol, 30 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | H2SO4 | 5.42 mmol, 289 μL | OS(=O)(=O)O | H2O4S
reactant | NH3 | N | H3N
solvent | n-butylalcohol | 60 mL | C(CCC)O | C4H10O
solvent | MeOH | 7 N, 116 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
solvent | n-butylalcohol | 12 ml | C(CCC)O | C4H10O
product | 5-bromo-2-hydroxybenzamide | 24 g, 82% yield | BrC=1C=CC(=C(C(=O)N)C1)O | C7H6BrNO2
